US06506901B2
Step C: (2S)-1-(9H-Carbazol-4-yloxy)-3-{[1-(4,4,4-trifluoro-butyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol
Prepared from 4-[(2S)-oxiranylmethoxy]-9H-carbazole (0.125 g, 0.52 mmol) and 4-aminomethyl-1-(4,4,4-trifluorobutyl)-piperidine (0.224 g, 1.0 mmol) according to the procedure used for Example 2 to give 0.110 g of the title compound as a tan solid.

reactant | 4-[(2S)-oxiranylmethoxy]-9H-carbazole | 0.52 mmol, 0.125 g | O1[C@@H](C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
reactant | 4-aminomethyl-1-(4,4,4-trifluorobutyl)-piperidine | 1.0 mmol, 0.224 g | NCC1CCN(CC1)CCCC(F)(F)F | C10H19F3N2
product | (2S)-1-(9H-Carbazol-4-yloxy)-3-{[1-(4,4,4-trifluoro-butyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol | 0.110 g | C1=CC=C(C=2C3=CC=CC=C3NC12)OC[C@H](CNCC1CCN(CC1)CCCC(F)(F)F)O | C25H32F3N3O2
